US05773428
Crude 2-(ethoxy)phosphinoylmethyl-4-methylpentanoic acid ethyl ester (26 g) was dissolved in 600 mL THF/CH2Cl2 (50/50) and cooled to 0° C. Diisopropyl-ethylamine (32 mL) and 90.8 mL of bis-(trimethylsilyl) acetamide were then added to the solution and the resulting mixture was stirred for 20 minutes before paraformaldehyde (5.5 g) was added. The solution was brought to room temperature and heated at 37° C. for 18 hours. The solvent was removed by evaporation, and the resulting oil dissolved in 200 mL ethyl acetate. The solution was washed with 50 mL of 1N HCl (2×), 50 mL of brine (2×), dried over MgSO4, filtered and evaporated to yield 19.3 g of 2-(ethoxy) (hydroxymethyl)phosphinoylmethyl-4-methylpentanoic acid ethyl ester as a faintly yellow oil, MS: 281 (MH+).

reactant | 2-(ethoxy)phosphinoylmethyl-4-methylpentanoic acid ethyl ester | 26 g | C(C)OC(C(CC(C)C)CP(=O)OCC)=O | C11H23O4P
reactant | Diisopropyl-ethylamine | 32 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | bis-(trimethylsilyl) acetamide | 90.8 mL | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | paraformaldehyde | 5.5 g | C=O | CH2O
solvent | THF CH2Cl2 | 600 mL | C1CCOC1.C(Cl)Cl
product | 2-(ethoxy) (hydroxymethyl)phosphinoylmethyl-4-methylpentanoic acid ethyl ester | 19.3 g | C(C)OC(C(CC(C)C)(OCC)CP(=O)CO)=O | C12H25O5P
